US08748436B2
(b) [4-(5-Cyclopentyloxy-7-propoxy-oxazolo[5,4-d]pyrim idin-2-yl)-2,6-dimethyl-phenoxy]-acetic acid
25 mg of [4-(5-cyclopentyloxy-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl)-2,6-dimethyl-phenoxy]-acetic acid tert-butyl ester were dissolved in 2 ml of dichloromethane and treated with 1 nil of trifluoroacetic acid. After 16 h the mixture was concentrated and freeze-dried. 24 mg of the title compound were obtained.

reactant | [4-(5-cyclopentyloxy-7-propoxy-oxazolo[5,4-d]pyrimidin-2-yl)-2,6-dimethyl-phenoxy]-acetic acid tert-butyl ester | 25 mg | C(C)(C)(C)OC(COC1=C(C=C(C=C1C)C=1OC=2N=C(N=C(C2N1)OCCC)OC1CCCC1)C)=O | C27H35N3O6
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | [4-(5-Cyclopentyloxy-7-propoxy-oxazolo[5,4-d]pyrim idin-2-yl)-2,6-dimethyl-phenoxy]-acetic acid | 24 mg | C1(CCCC1)OC=1N=C(C2=C(N1)OC(=N2)C2=CC(=C(OCC(=O)O)C(=C2)C)C)OCCC | C23H27N3O6
